US09079866B2
1-(1-((2-Bromobenzyl)sulfonyl)piperidin-4-yl)urea
To a mixture of 1-(2-bromobenzylsulfonyl)piperidin-4-amine.HCl (200 mg, 0.54 mmol) and Et3N (164 mg, 1.62 mmol) in dry THF (20 mL) was added (COCl2)3 (160 mg, 0.54 mmol) at rt. The reaction mixture was stirred at rt for 1 hour, and then a solution of NH3 in THF (4 N, 10 mL) was added drop-wise. The resulting mixture was stirred at rt for 5 hours, concentrated to dryness and purified by HPLC to give the title compound (140 mg, 69%). MS (ESI): mass calcd. for C13H18BrN3O3S, 375.03; m/z found, 376.0 [M+H]+.

reactant | 1-(2-bromobenzylsulfonyl)piperidin-4-amine | BrC1=C(CS(=O)(=O)N2CCC(CC2)N)C=CC=C1 | C12H17BrN2O2S
reactant | HCl | 0.54 mmol, 200 mg | Cl | ClH
reactant | Et3N | 1.62 mmol, 164 mg | CCN(CC)CC | C6H15N
reactant | NH3 | N | H3N
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 4 N, 10 mL | C1CCOC1 | C4H8O
product | 1-(1-((2-Bromobenzyl)sulfonyl)piperidin-4-yl)urea | 140 mg, 69% | BrC1=C(CS(=O)(=O)N2CCC(CC2)NC(=O)N)C=CC=C1 | C13H18BrN3O3S
